US04731471
Parenteral Solution of Sodium {[9a-(2-chloroethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetate
{[9a-(2-Chloroethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid (500 mg) is dissolved by stirring and warming with 0.25N sodium bicarbonate solution (5.4 ml). The solution is diluted to 10 ml and sterilized by filtration. All the water that is used in the preparation is pyrogen-free. The concentration of the active agent in the final solution is 5%.

reactant | {[9a-(2-Chloroethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetic acid | 500 mg | ClCCC12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC(=O)O | C17H15Cl3O4
reactant | sodium bicarbonate | 0.25N, 5.4 ml | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | Sodium {[9a-(2-chloroethyl)-5,6-dichloro-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl]oxy}acetate | ClCCC12CC3=CC(=C(C(=C3C2=CC(CC1)=O)Cl)Cl)OCC(=O)[O-].[Na+] | InChI=1S/C17H15Cl3O4.Na/c18-4-3-17-2-1-10(21)6-11(17)14-9(7-17)5-12(15(19)16(14)20)24-8-13(22)23;/h5-6H,1-4,7-8H2,(H,22,23);/q;+1/p-1
